US04855345
Preparation of 2-[3',5'-bis(3",5"-ditert.-butyl-4"-hydroxybenzyl)-2',4',6'-trimethylphenoxy]-5,5-dimethyl[1,3,2]dioxaphosphinane of the formula
A solution of 8.45 g of 2-chloro-5,5-dimethyl[1,3,2]dioxaphosphinane in 50 ml of toluene is added dropwise, in the course of 15 minutes and at a temperature between 20° and 30° C., to a solution of 28.65 g of 3,5-bis-[3',5'-ditert.-butyl-4'-hydroxybenzyl]-2,4,6-trimethylphenol and 25.3 g of triethylamine in 150 ml of toluene. The reaction mixture is heated under reflux for 24 hours. After cooling to room temperature, the residue is filtered off and the filtrate is evaporated to dryness. This gives 35 g of a colourless product having a melting point of 190° C.

reactant | 2-chloro-5,5-dimethyl[1,3,2]dioxaphosphinane | 8.45 g | ClP1OCC(CO1)(C)C | C5H10ClO2P
reactant | 3,5-bis-[3',5'-ditert.-butyl-4'-hydroxybenzyl]-2,4,6-trimethylphenol | 28.65 g | C(C)(C)(C)C=1C=C(CC=2C(=C(C(=C(C2C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)O)C)C=C(C1O)C(C)(C)C | C39H56O3
reactant | triethylamine | 25.3 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[3',5'-bis(3",5"-ditert.-butyl-4"-hydroxybenzyl)-2',4',6'-trimethylphenoxy]-5,5-dimethyl[1,3,2]dioxaphosphinane | C(C)(C)(C)C=1C=C(CC=2C(=C(OP3OCC(CO3)(C)C)C(=C(C2C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)C)C=C(C1O)C(C)(C)C | C44H65O5P
